US04208531
6-Azido-2,3,6-trideoxy-D-erythro-hexose (1.73 g, 10 mmol) was acetylated in acetic anhydride (8 ml) with a few drops of 70% perchloric acid as catalyst. After 1 h at room temperature the solution was saturated with dry hydrogen bromide and the mixture was allowed to stand for 2 h. It was then poured into ice-water and extracted with ice-water, ice-cold saturated sodium bicarbonate solution and water. Finally the extracts were dried (Na2SO4) and concentrated to yield 4-O-acetyl-6-azido-2,3,6-trideoxy-D-erythro-hexopyranosyl bromide as a colourless syrup (2.2 g), which was used immediately for the next step.

reactant | 6-Azido-2,3,6-trideoxy-D-erythro-hexose | 10 mmol, 1.73 g | N(=[N+]=[N-])C[C@H]([C@H](CCC=O)O)O | C6H11N3O3
reactant | hydrogen bromide | Br | BrH
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | perchloric acid | a few drops | Cl(=O)(=O)(=O)O | ClHO4
product | 4-O-acetyl-6-azido-2,3,6-trideoxy-D-erythro-hexopyranosyl bromide | 2.2 g | C(C)(=O)O[C@H]1CCC(O[C@@H]1CN=[N+]=[N-])Br | C8H12BrN3O3
